US08124606B2
Compound 114B: tert-butyl 4-(4-cyano-2-methylphenyl)piperazine-1-carboxylate:
To a solution of 3-methyl-4-(piperazin-1-yl)benzonitrile (2.533 g, 12.59 mmol) in THF (Ratio: 1.000, Volume: 25 mL) and MeOH (Ratio: 1.000, Volume: 25 mL) was added Di-tert-butyl dicarbonate (3.09 mL, 13.47 mmol) at 10° C. The reaction was stirred at 10° C. for 15 min warmed to 23° C. and stirred at for 18 hr. The resulting suspension was filtered, rinsed with THF (3×5 mL) and the filtrate was concentrated in vacuo. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.42 (s, 9H) 2.28 (s, 3H) 2.83-2.92 (m, 4H) 3.42-3.52 (m, 4H) 7.08-7.13 (m, 1H) 7.57-7.65 (m, 2H). ESI-MS: m/z 302.1 (M+H)+.

reactant | 3-methyl-4-(piperazin-1-yl)benzonitrile | 12.59 mmol, 2.533 g | CC=1C=C(C#N)C=CC1N1CCNCC1 | C12H15N3
reactant | Di-tert-butyl dicarbonate | 13.47 mmol, 3.09 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | MeOH | 25 mL | CO | CH4O
product | tert-butyl 4-(4-cyano-2-methylphenyl)piperazine-1-carboxylate | C(#N)C1=CC(=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)C | C17H23N3O2
